US07875639B2
3-(2-Methoxyethyl)-3H-benzothiazol-2-ylideneamine hydrobromide
Benzothiazol-2-ylamine (10.0 g, 66.6 mmol) and 2-bromoethyl methyl ether (9.39 mL, 99.9 mmol) were combined and heated at 85° C. for 6 hours. The dark solid was triturated with EtOH then filtered and dried under vacuum to afford the title compound (15.8 g, 82%). 1H NMR (DMSO-d6, 300 MHz) δ ppm 3.23 (s, 3 H), 3.69 (t, J=5.1 Hz, 2 H), 4.51 (t, J=5.1 Hz, 2 H), 7.42 (dt, J=1.0, 8.0 Hz, 1 H), 7.56 (m, 1 H), 7.72 (d, J=8.0 Hz, 1 H), 8.00 (dd, J=1.1, 8.0 Hz, 1H), 10.16 (br s, 2 H); MS (DCI/NH3) m/z 209 (M+H)+.

reactant | Benzothiazol-2-ylamine | 66.6 mmol, 10.0 g | S1C(=NC2=C1C=CC=C2)N | C7H6N2S
reactant | 2-bromoethyl methyl ether | 99.9 mmol, 9.39 mL | COCCBr | C3H7BrO
product | 3-(2-Methoxyethyl)-3H-benzothiazol-2-ylideneamine hydrobromide | 15.8 g, 82% | Br.COCCN1C(SC2=C1C=CC=C2)=N | InChI=1S/C10H12N2OS.BrH/c1-13-7-6-12-8-4-2-3-5-9(8)14-10(12)11;/h2-5,11H,6-7H2,1H3;1H
